US05707931
6-Chloro-3-cyclopropanecarbonyl-4-(2,2-dimethoxyethylamino)-8-trifluoromethyl-2-quinolinone (9)
6-Chloro-3-cyclopropanecarbonyl-4-methylsulfoxy-8-trifluormethyl-2-quinolinone (377 mg, 1 mmol) and 2,2-dimethoxyethylamine (105 mg, 1 mmol) were dissolved in tetrahydrofurane (20 ml) and stirred for 24 hr at room temperature. After completion of reaction, solvent was removed under reduced pressure and residue was recrystallized from ethanol to give desired product (335 mg, yield: 80%).

reactant | 6-Chloro-3-cyclopropanecarbonyl-4-methylsulfoxy-8-trifluormethyl-2-quinolinone | 1 mmol, 377 mg | ClC=1C(=C2C(=C(C(NC2=C(C1)C(F)(F)F)=O)C(=O)C1CC1)C)OS(=O)(=O)O | C15H11ClF3NO6S
reactant | 2,2-dimethoxyethylamine | 1 mmol, 105 mg | COC(CN)OC | C4H11NO2
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
product | 6-Chloro-3-cyclopropanecarbonyl-4-(2,2-dimethoxyethylamino)-8-trifluoromethyl-2-quinolinone | 335 mg, yield: 80% | ClC=1C=C2C(=C(C(NC2=C(C1)C(F)(F)F)=O)C(=O)C1CC1)NCC(OC)OC | C18H18ClF3N2O4
